US06696473B2
A. Preparation of 4-Ethylamino-3-nitropyridine
In a manner similar to example 31, the title compound was prepared from 4-chloro-3-nitropyridine, prepared according to published procedure [J. Med. Chem. 1996, 39, 487-493], and ethylamine. 1H-NMR (CDCl3): δ 9.22 (1H, s), 8.30 (1H, d), 8.10 (1H, br s), 6.71 (1H, d), 3.40 (2H, m), 1.39 (3H, t).

reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | ethylamine | C(C)N | C2H7N
product | 4-Ethylamino-3-nitropyridine | C(C)NC1=C(C=NC=C1)[N+](=O)[O-] | C7H9N3O2
